US08536185B2
Preparation of (±)-2,2,2-trifluoro-1-(3-(4-(2-phenylpyrimidin-5-yl)-1H-imidazol-2-yl)piperidin-1-yl)ethanone
To a 0° C. solution of 2-phenyl-5-(2-(piperidin-3-yl)-1H-imidazol-4-yl)pyrimidine (40 mg, 0.13 mmol) in tetrahydrofuran (2 mL) was added triethylamine (26 mg, 0.26 mmol) followed by trifluoroacetic anhydride (30 mg, 0.14 mmol) and the reaction mixture was stirred for 1 hour at 0° C. then allowed to warm to room temperature. To −78° C. solution of 2-phenyl-5-(2-(piperidin-3-yl)-1H-imidazol-4-yl)pyrimidine (40 mg, 0.13 mmol) in tetrahydrofuran (2 mL) was added triethylamine (26 mg, 0.26 mmol) followed by trifluoroacetic anhydride (30 mg, 0.14 mmol) and the reaction mixture was stirred and allowed to slowly warm to room temperature. The two reaction mixtures were combined, the volatile materials were removed, and the crude reaction mixture was treated with 0.5 mL of N-methylpiperazine at 50° C. for 1 hour. The addition of 30 mL of water caused a precipitate that was filtered and washed with water and dried in high vacuum. The crude solid was chromatographed on 4 g of silica eluted with ethyl acetate/hexane to give 30 mg of the title compound as a white solid. Rf 0.20 with 1:1 v/v hexanes-ethyl acetate; 1H-NMR (400 MHz; DMSO-d6) δ 9.21 (s, 2H), 8.35-8.45 (m, 2H), 7.85-7.90 (m, 1H), 7.5-7.6 (m, 3H), 4.20-4.55 (m, 1H), 3.80-4.15 (m, 1H), 2.0-3.7 (m, 3H), 2.1-2.2 (m, 1H), 1.75-2.0 (m, 2H), 1.5-1.7 (m, 1H); MS (ESI+) m/z 402 (M+1); H-PGDS FPBA IC50: 0.09 μM.

reactant | 2-phenyl-5-(2-(piperidin-3-yl)-1H-imidazol-4-yl)pyrimidine | 0.13 mmol, 40 mg | C1(=CC=CC=C1)C1=NC=C(C=N1)C=1N=C(NC1)C1CNCCC1 | C18H19N5
reactant | triethylamine | 0.26 mmol, 26 mg | C(C)N(CC)CC | C6H15N
reactant | trifluoroacetic anhydride | 0.14 mmol, 30 mg | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | 2-phenyl-5-(2-(piperidin-3-yl)-1H-imidazol-4-yl)pyrimidine | 0.13 mmol, 40 mg | C1(=CC=CC=C1)C1=NC=C(C=N1)C=1N=C(NC1)C1CNCCC1 | C18H19N5
reactant | triethylamine | 0.26 mmol, 26 mg | C(C)N(CC)CC | C6H15N
reactant | trifluoroacetic anhydride | 0.14 mmol, 30 mg | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | N-methylpiperazine | 0.5 mL | CN1CCNCC1 | C5H12N2
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
solvent | water | 30 mL | O | H2O
product | (±)-2,2,2-trifluoro-1-(3-(4-(2-phenylpyrimidin-5-yl)-1H-imidazol-2-yl)piperidin-1-yl)ethanone | 30 mg | FC(C(=O)N1CC(CCC1)C=1NC=C(N1)C=1C=NC(=NC1)C1=CC=CC=C1)(F)F | C20H18F3N5O
